US07932272B2
Next, a solution of 2-amino-nicotinic acid (16 mg, 0.116 mmol), 4-benzyloxy-3-methoxymethoxy-benzylamine (15 mg, 0.0549 mmol), benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate (55 mg, 0.124 mmol) and triethylamine (0.08 mL, 0.574 mmol) in dimethylsulfoxide (4 mL) was stirred under nitrogen atmosphere at room temperature for 24 hours. Water (100 mL) and brine (50 mL) were added to the reaction solution, which was then extracted with ethyl acetate (100 mL) twice, and washed with water twice. The organic layer was dried over anhydrous magnesium sulfate, which was then filtered, the filtrate was evaporated in vacuo, and 2-amino-N-(4-benzyloxy-3-methoxymethoxy-benzyl)-nicotinamide was obtained as a pale yellow oil. This was purified by NH silica gel column chromatography (hexane:ethyl acetate=1:1, then hexane:ethyl acetate=3:7), and 2-amino-N-(4-benzyloxy-3-methoxymethoxy-benzyl)-nicotinamide) (9.4 mg, 0.0239 mmol, 43.5%) was obtained as a pale yellow oil. A solution of the resulting 2-amino-N-(4-benzyloxy-3-methoxymethoxy-benzyl)-nicotinamide (7.8 mg, 0.0198 mmol) and 2M hydrochloric acid (2 mL) in methanol (3 mL) was stirred for 21 hour at room temperature. Sodium bicarbonate (600 mg, 7.14 mmol) was added to the reaction mixture to basify it, which was then filtered, evaporation in vacuo was carried out, then, the obtained residue was purified by thin layer NH silica gel chromatography (methanol:ethyl acetate=5:95), and the title compound (2.0 mg, 0.0057 mmol, 29%) was obtained as a white solid.

reactant | 2-amino-nicotinic acid | 0.116 mmol, 16 mg | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | 4-benzyloxy-3-methoxymethoxy-benzylamine | 0.0549 mmol, 15 mg | C(C1=CC=CC=C1)OC1=C(C=C(CN)C=C1)OCOC | C16H19NO3
reactant | benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate | 0.124 mmol, 55 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.574 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 4 mL | CS(=O)C | C2H6OS
solvent | brine | 50 mL | [Cl-].[Na+].O
solvent | Water | 100 mL | O | H2O
product | 2-amino-N-(4-benzyloxy-3-methoxymethoxy-benzyl)-nicotinamide | NC1=C(C(=O)NCC2=CC(=C(C=C2)OCC2=CC=CC=C2)OCOC)C=CC=N1 | C22H23N3O4
